US07825254B2
4-(Quinolin-2-ylmethoxy)-benzaldehyde
Following the procedure for the preparation of 4-(Quinolin-2-ylmethoxy)-benzoic acid methyl ester but substituting 4-Hydroxy-benzaldehyde provided the title compound. MS: (M+H m/z=264.2).

reactant | 4-(Quinolin-2-ylmethoxy)-benzoic acid methyl ester | COC(C1=CC=C(C=C1)OCC1=NC2=CC=CC=C2C=C1)=O | C18H15NO3
reactant | 4-Hydroxy-benzaldehyde | OC1=CC=C(C=O)C=C1 | C7H6O2
product | 4-(Quinolin-2-ylmethoxy)-benzaldehyde | N1=C(C=CC2=CC=CC=C12)COC1=CC=C(C=O)C=C1 | C17H13NO2
